US05589489
A solution of 3-(3,4-dichlorophenyl)-3-(2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.112 g) in methanol (5 mL) was treated with 4-hydroxy-4-phenylpiperidine (0.057 g) and the pH was adjusted to 6 by adding acetic acid. After treating with sodium cyanoborohydride (0.030 g), the reaction mixture was stirred at ambient temperature for 16 hours, diluted with a saturated solution of sodium bicarbonate, and extracted with dichloromethane. The organic layers were dried and evaporated to obtain 3-[1-(3,4-dichlorophenyl)-3-(4-hydroxy-4-phenylpiperidino)propyl]-2-methyl-2,3-dihydroiso-indol-1-one as a foam (0.104 g). This material was transformed into the hydrochloride salt as follows. The above product was dissolved in dry dichloromethane (2 mL) and treated with HCl in ether (2 mL). The resulting solution was diluted with anhydrous ether, stirred for 2 hours and the resulting precipitate was collected to afford the title compound (0.075 g); mp 160° C. (dec); MS: m/z=509(M+1); NMR: 1.79 (broad,2), 3.32 (s,3), 3.75 (broad,1), 4.88 (m,1), 5.44 (s,1), 6.80-7.95 (m,12). Analysis for C29H30Cl2N2O2.HCl.0.5 H2O: Calculated: C, 62.76; H, 5.81; N, 5.13; Found: C, 62.79; H, 5.89; N, 4.89.

reactant | 3-(3,4-dichlorophenyl)-3-(2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.112 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=CC=CC=C12)=O)C | C18H15Cl2NO2
reactant | 4-hydroxy-4-phenylpiperidine | 0.057 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.030 g | C(#N)[BH3-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 3-[1-(3,4-dichlorophenyl)-3-(4-hydroxy-4-phenylpiperidino)propyl]-2-methyl-2,3-dihydroiso-indol-1-one | 0.104 g | ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)(C1=CC=CC=C1)O)C1N(C(C2=CC=CC=C12)=O)C | C29H30Cl2N2O2
